US07214681B2
(E)-2-(4-Methanesulfonylphenyl)-N-thiazol-2-yl-3-thiophen-3-ylacrylamide
A suspension of PS-carbodiimide (688 mg, loading 1.34 μmol mg−1, 922 μmol), (E)-2-(4-methanesulfonylphenyl)-3-thiophen-3-ylacrylic acid (Preparation 1, 139 mg, 450 μmol), and HOBt (84 mg, 622 μmol) in anhydrous DMF was stirred for 15 min at 20° C. Thiazol-2-ylamine (32 mg, 320 μmol) was added, then the mixture was stirred for 40 h at 20° C., before being filtered through Celite. The filter cake was washed with DMF (10 mL), EtOAc (20 mL), and CH2Cl2 (20 mL). The solutions were combined, the solvents removed under reduced pressure, and the residue dissolved in EtOAc (50 mL). The EtOAc solution was washed with saturated aqueous Na2CO3 (3×20 mL), H2O (20 mL), and brine (20 mL), before being dried (Na2SO4). Filtration, solvent evaporation, and flash chromatography (IH-EtOAc, 3:1 to 1:3) gave the title compound: RTA=3.43 min; m/z (ES+)=391.0 [M+H]+.

reactant | carbodiimide | 922 μmol, 688 mg | N=C=N | CH2N2
reactant | (E)-2-(4-methanesulfonylphenyl)-3-thiophen-3-ylacrylic acid | 450 μmol, 139 mg | CS(=O)(=O)C1=CC=C(C=C1)/C(/C(=O)O)=C\C1=CSC=C1 | C14H12O4S2
reactant | HOBt | 622 μmol, 84 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Thiazol-2-ylamine | 320 μmol, 32 mg | S1C(=NC=C1)N | C3H4N2S
solvent | DMF | CN(C)C=O | C3H7NO
product | (E)-2-(4-Methanesulfonylphenyl)-N-thiazol-2-yl-3-thiophen-3-ylacrylamide | CS(=O)(=O)C1=CC=C(C=C1)/C(/C(=O)NC=1SC=CN1)=C\C1=CSC=C1 | C17H14N2O3S3
